US07157464B2
Synthesis of 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-pyrazol-1-yl-ethanone
Pyrazole (112.33 mg, 1.65 mmol) was dissolved in DMF (10 mL). K2CO3 (228.05 mg, 1.65 mmol) and 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone (300 mg, 1.67 mmol) were added to it. The reaction was heated to 80° C. for 14 h. After completion, the reaction was cooled to room temperature, quenched with brine and then extracted with ethyl acetate. The organic layer was further washed with water (2×25 mL) and brine (2×25 mL) and dried over magnesium sulfate. The solvent was removed by rotary evaporation to give the crude product which was purified by column chromatography on silica gel using a solvent mixture (hexane/ethyl acetate=1/1) to afford the title compound as white solid. 1H NMR (400 MHz, CDCl3): 7.2–7.58 (d, 2H), 6.94–7.2 (t, 2H), 6.84–6.9 (dd, 2H), 6.32–6.36 (t, 1H), 5.6 (s, 2H), 3.76–3.82 (m, 2H), 3.68–3.74 (m, 2H), 3.04–3.1 (m, 2H), 3.0–3.04 (m, 2H). 13C NMR (400 MHz, CDCl3):165, 158, 146.5, 140, 130, 118.4, 118.2, 116, 115.8, 107, 54, 51, 50.8 45.8, 42.8.

reactant | Pyrazole | 1.65 mmol, 112.33 mg | N1N=CC=C1 | C3H4N2
reactant | K2CO3 | 1.65 mmol, 228.05 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | 1.67 mmol, 300 mg | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-pyrazol-1-yl-ethanone | FC1=CC=C(C=C1)N1CCN(CC1)C(CN1N=CC=C1)=O | C15H17FN4O
